US08039460B2
Step A: Benzyl 4-cyano-4-(methylamino)piperidine-1-carboxylate
A solution of potassium cyanide (2.79 g, 42.9 mmol) in water (5 mL) was added to a solution of benzyl 4-oxopiperidine-1-carboxylate (10.0 g, 42.9 mmol) and methylamine hydrochloride (2.90 g, 42.9 mmol) in water/methanol (1:1; 10 mL) at 0° C. The reaction mixture was allowed to warm to ambient temperature. After 48 h, additional methylamine hydrochloride (1.45 g, 21.4 mmol) was added. After 18 h, the mixture was diluted with ether, and extracted with ethyl acetate (3×). The combined organic extracts were dried over magnesium sulfate and concentrated down to 50 mL volume. HCl gas was bubbled to this solution for 5 min. The solid precipitated out of the solution was filtered and washed with ether (3×), ethyl acetate (3×) and dried under reduced pressure to give the hydrochloride salt of the title compound. MS 274.1 (M+1).

reactant | potassium cyanide | 42.9 mmol, 2.79 g | [C-]#N.[K+]
reactant | benzyl 4-oxopiperidine-1-carboxylate | 42.9 mmol, 10.0 g | O=C1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C13H15NO3
reactant | methylamine hydrochloride | 42.9 mmol, 2.90 g | Cl.CN
reactant | methylamine hydrochloride | 21.4 mmol, 1.45 g | Cl.CN
solvent | water | 5 mL | O | H2O
solvent | water methanol | 10 mL | O.CO
solvent | ether | CCOCC | C4H10O
product | Benzyl 4-cyano-4-(methylamino)piperidine-1-carboxylate | C(#N)C1(CCN(CC1)C(=O)OCC1=CC=CC=C1)NC | C15H19N3O2
